US04340539
Preparation of BL-P2013 Free Acid
To a mixture of 25 ml of ethyl acetate and 10 ml of water was added 800 mg (0.00261 mole) of BL-P2013 potassium salt. After all of the solid had dissolved, the mixture was treated dropwise with 50% aqueous phosphoric acid with vigorous shaking until no more material precipitated from the aqueous layer. The ethyl acetate layer was separated, then washed with satuated sodium chloride solution and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration and washed with 10 ml of ethyl acetate. (The wash solvent was combined with the original filtrate). "Skellysolve B" was then added to the ethyl acetate to the cloud point (approx. 10 ml). The mixture was treated with 500 mg of activated carbon ("Darko KB") and filtered. The filtrate was diluted with 15 ml of "Skellysolve B", then seeded with crystals of BL-P2013 free acid. After approx. 3 hours at room temperature, the crystalline precipitate of free acid was collected and dried in vacuo (15 min) over P 2 O5 to obtain 323 mg (46%) m.p. slow decomp. over 100°.

reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | BL-P2013 potassium | 0.00261 mole, 800 mg | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)[O-])CCl.[K+].[K]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 10 ml | O | H2O
product | BL-P2013 | C[C@@]1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)[O-])CCl.[K+] | InChI=1S/C8H10ClNO5S.K/c1-8(3-9)6(7(12)13)10-4(11)2-5(10)16(8,14)15;/h5-6H,2-3H2,1H3,(H,12,13);/q;+1/p-1/t5-,6+,8+;/m1./s1
